US08871756B2
To a cooled solution of trans-benzyl-3-amino-4-hydroxypyrrolidine-1-carboxylate (2.67 g) in chloroform (25 mL) was added dropwise a solution of di-tert-butyl dicarbonate (3.7 g) in chloroform (10 mL) in an ice-water bath, and the mixture was stirred at room temperature for 19 hours. The reaction mixture was washed with water and the organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by a column chromatography on silica gel to afford 2.7 g of trans-benzyl-3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate as crystals. MS obsd. (ESI+) [(M+H)+] 337.

reactant | trans-benzyl-3-amino-4-hydroxypyrrolidine-1-carboxylate | 2.67 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)O)N | C12H16N2O3
reactant | di-tert-butyl dicarbonate | 3.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | trans-benzyl-3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate | 2.7 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)O)NC(=O)OC(C)(C)C | C17H24N2O5
